US08729078B2
In a 25 mL round-bottomed flask, 6-vinyl-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile (138 mg, 816 μmol, Eq: 1.00), 6-tert-butyl-8-fluoro-2-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-4-yl)phthalazin-1(2H)-one (287 mg, 816 μmol, Eq: 1.00) and copper acetate (200 mg) were combined with 1,2-Dichloroethane (3.58 ml) to give a blue suspension. Pyridine (129 mg, 132 μl, 1.63 mmol, Eq: 2) was added. The reaction mixture was heated to 45° C. and stirred for 2 d. The reaction mixture was poured into 20 mL sat NH4Cl and extracted with sat EtOAc (3×20 mL). The organic layers were dried over MgSO4 and concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 40 g, 5% to 10% MeOH in DCM), then by HPLC to give 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-6-vinyl-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile (51 mg, 13%).

reactant | 6-vinyl-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 816 μmol, 138 mg | C(=C)C1=CC=C2C(=N1)NC=C2C#N | C10H7N3
reactant | 6-tert-butyl-8-fluoro-2-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-4-yl)phthalazin-1(2H)-one | 816 μmol, 287 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C1=CC=CC=2B(OCC21)O | C19H18BFN2O3
reactant | Pyridine | 1.63 mmol, 132 μl, 129 mg | N1=CC=CC=C1 | C5H5N
reactant | NH4Cl | [NH4+].[Cl-]
catalyst | copper acetate | 200 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | 1,2-Dichloroethane | 3.58 ml | ClCCCl | C2H4Cl2
product | 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-6-vinyl-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 51 mg, 13% | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1C=C(C=2C1=NC(=CC2)C=C)C#N)CO | C29H24FN5O2
